US08497288B2
g) (6R,7aS)-6-Azido-2-(4-trifluoromethoxy-phenyl)-hexahydro-pyrrolo[1,2-c]imidazol-3-one
Sodium azide (80 mg, 1.2 mmol) was added to a solution of (6S,7aS)-6-Bromo-2-(4-trifluoromethoxy-phenyl)-hexahydro-pyrrolo[1,2-c]imidazol-3-one (350 mg, 1.0 mmol) in anhydrous DMF (10 mL), the mixture was heated to 70° C. and stirred for 2 hours. The mixture was cooled and poured into water (30 mL), extracted with ethyl acetate (3×20 mL), the organic layers was combined and washed with water (2×20 mL), brine (20 mL), dried over anhydrous sodium sulphate, filtered and concentrated. The residue was purified by silica gel column chromatography (eluting with petroleum ether/ethyl acetate=10:1) to give 260 mg (83%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 7.59 (d, 2H, J=9.3 Hz), 7.19 (d, 2H, J=8.4 Hz), 4.33 (t, 1H, J=6.3 Hz), 4.13-3.98 (m, 3H), 3.75-3.72 (m, 1H), 3.15 (dd, 1H, J1=12.6 Hz, J2=2.1 Hz), 2.19 (dd, 1H, J1=13.2 Hz, J2=3.9 Hz), 1.73-1.63 (m, 1H).

reactant | Sodium azide | 1.2 mmol, 80 mg | [N-]=[N+]=[N-].[Na+]
reactant | (6S,7aS)-6-Bromo-2-(4-trifluoromethoxy-phenyl)-hexahydro-pyrrolo[1,2-c]imidazol-3-one | 1.0 mmol, 350 mg | Br[C@H]1C[C@@H]2N(C(N(C2)C2=CC=C(C=C2)OC(F)(F)F)=O)C1 | C13H12BrF3N2O2
reactant | water | 30 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (6R,7aS)-6-Azido-2-(4-trifluoromethoxy-phenyl)-hexahydro-pyrrolo[1,2-c]imidazol-3-one | 260 mg, 83% | N(=[N+]=[N-])[C@@H]1C[C@@H]2N(C(N(C2)C2=CC=C(C=C2)OC(F)(F)F)=O)C1 | C13H12F3N5O2
